US08053442B2
To the solution of 3-(1H-indol-3-yl)propylamide (1.85 g, 9.83 mmol) in tetrahydrofuran (50 mL) is added lithium aluminum hydride (1.49 g, 39.31 mmol) at 0° C. The resulting mixture is warmed to room temperature and then refluxed for 2.5 hours. The mixture is then cooled to room temperature and quenched by slow addition of water (2 mL) followed by aqueous 15% sodium hydroxide (2 mL) and water (2 mL). The mixture is allowed to stir overnight and filtered through celite. The filtrate obtained is evaporated and the residue is subjected to flash column chromatography (50% dichloromethane: 40% methanol: 10% aqueous ammonia (40%)) to afford 3-(1H-Indol-3-yl)propylamine (1.61 g, 94%).

reactant | 3-(1H-indol-3-yl)propylamide | 9.83 mmol, 1.85 g | N1C=C(C2=CC=CC=C12)CCC[NH-]
reactant | lithium aluminum hydride | 39.31 mmol, 1.49 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 3-(1H-Indol-3-yl)propylamine | 1.61 g, 94% | N1C=C(C2=CC=CC=C12)CCCN | C11H14N2
